US06586421B2
(5aR*,10bS*)-8,9-dichloro-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
A mixture of 3-benzoyl-8,9-dichloro-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole (0.20 g, 0.55), potassium hydroxide (1.0 g, 17.8 mmol), and ethylene glycol (5 mL) was heated to 170° C. Upon the disappearance of starting material, the reaction was cooled to room temperature, diluted with H2O, and extracted with CH2Cl2. The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated under reduced pressure. The crude product was purified by silica gel chromatography and prep HPLC to give the title compound (31 mg, 22%) as a tan solid. 1H NMR (d-MeOH) δ 8.54, 7.02, 6.63, 3.73, 3.08-2.88, 2.40, 2.17, 1.81, 1.65; IR (drift) 2934, 2916, 2866, 2850, 2831, 1627, 1608, 1569, 1481, 1466, 1372, 1365, 953, 775, 662 cm−1; HRMS (FAB) calcd for C12H14Cl2N2+H 257.0612, found 257.0619.

reactant | 3-benzoyl-8,9-dichloro-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | 0.20 g | C(C1=CC=CC=C1)(=O)N1CCC2NC=3C=C(C(=CC3C2CC1)Cl)Cl | C19H18Cl2N2O
reactant | potassium hydroxide | 17.8 mmol, 1.0 g | [OH-].[K+]
reactant | ethylene glycol | 5 mL | C(CO)O | C2H6O2
solvent | H2O | O | H2O
product | (5aR*,10bS*)-8,9-dichloro-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | 31 mg, 22% | ClC=1C(=CC=2[C@H]3[C@H](NC2C1)CCNCC3)Cl | C12H14Cl2N2
